US08791108B2
To a mixture of (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (50 mg, 0.112 mmol) and 3,3-dimethylbutan-1-amine (22.66 mg, 0.224 mmol) in DMF (2 mL) was added DIEA (0.098 mL, 0.560 mmol), HATU (85 mg, 0.224 mmol) and DMAP (2.74 mg, 0.022 mmol) and the resulting mixture was stirred at room temp for 16 h. At this point LCMS indicated completion of reaction. Water was then added and the mixture was extracted with ethyl acetate (25 mL), washed with brine (15 mL), dried (Na2SO4), filtered and concentrated. Crude was then treated with 1N NaOH (0.336 mL, 0.336 mmol) in MeOH (2.000 mL) at 60° C. for 5 h. Mixture was then cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(2-((3,3-dimethylbutyl)carbamoyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (41.6 mg, 0.079 mmol, 70.4% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.13 (t, J=5.6 Hz, 1H), 6.77 (s, 1H), 5.46 (s, 1H), 3.37-3.28 (m, 6H), 1.92 (s, 3H), 1.67-1.55 (m, 2H), 1.54-1.40 (m, 4H), 1.14 (s, 9H), 1.08 (br. s., 6H), 0.96 (s, 9H). LCMS (M+H)=502.5.

reactant | (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.112 mmol, 50 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C(=O)O)C | C23H34N4O5
reactant | 3,3-dimethylbutan-1-amine | 0.224 mmol, 22.66 mg | CC(CCN)(C)C | C6H15N
reactant | DIEA | 0.560 mmol, 0.098 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.224 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaOH | 0.336 mmol, 1N, 0.336 mL | [OH-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.022 mmol, 2.74 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeOH | 2.000 mL | CO | CH4O
solvent | Water | O | H2O
product | (S)-2-(tert-butoxy)-2-(2-((3,3-dimethylbutyl)carbamoyl)-7-(4,4-dimethylpiperidin-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.079 mmol, 41.6 mg, 70.4% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1N1CCC(CC1)(C)C)N=C(C2)C(NCCC(C)(C)C)=O)C | C27H43N5O4
